US05994378
4-tert-Butylphenylhydrazine hydrochloride (5.0 g) was added to an aqueous sodium hydrogen carbonate solution and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate and evaporated under reduced pressure to give 4-tert-butylphenylhydrazine. A mixture of the hydrazine (4.2 g) obtained above procedure and ethyl pyruvate (3.2 g) in benzene (70 ml) was stirred under reflux azeotropically for 2 hours. After cooling, a solution of p-toluenesulfonic acid in benzene (70 ml) was added to the above mixture, and the mixture was stirred under reflux azeotropically for 2 hours. After cooling, the reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was partitioned between aqueous sodium hydrogen carbonate solution and ethyl acetate. The ethyl acetate layer was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The resulting residue was subjected to column chromatography on silica gel and eluted with a mixture of ethyl acetate and n-hexane. The fractions containing the objective compound were combined and concentrated under reduced pressure to give ethyl 5-tert-butylindole-2-carboxylate (4.00 g).

reactant | 4-tert-Butylphenylhydrazine hydrochloride | 5.0 g | Cl.C(C)(C)(C)C1=CC=C(C=C1)NN
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-tert-butylphenylhydrazine | C(C)(C)(C)C1=CC=C(C=C1)NN | C10H16N2
